Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OTOLARYNGOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
bilateral endoscopic sinus surgery

 
History of Present Illness:
___ with chronic rhinosinusitis who presents for endoscopic 
sinus surgeyr
 
Past Medical History:
as above, laryngopharyngeal reflux
 
Social History:
___
Family History:
n/c
 
Physical Exam:
AVSS
OC/OP: clear
Nose: dry
 
Pertinent Results:
___ 10:50AM BLOOD CK-MB-2 cTropnT-<0.01
___ 03:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:45PM BLOOD CK-MB-2 cTropnT-<0.___dmitted to observation after day surgery for ESS due to 
persistent nausea and intermittent chest pain. Troponins/CK 
negative x3. EKG wnl. Discharged home on POD1 tolerating PO, no 
chest pain, no bleeding, pain well controlled.
 
Medications on Admission:
AZELASTINE [ASTELIN] - Astelin 137 mcg Nasal Spray Aerosol
2 puffs(s) nostril twice a day
ESOMEPRAZOLE MAGNESIUM [NEXIUM] -  (Prescribed by Other 
Provider;
Dose adjustment - no new Rx) - Nexium 40 mg capsule,delayed
release
1 Capsule(s) by mouth twice a day
FLUTICASONE [FLONASE] -  (Prescribed by Other Provider) - 
Flonase
50 mcg/actuation Nasal Spray
2 puffs(s) nostril once a day
SUCRALFATE - sucralfate 1 gram tablet
1 Tablet(s) by mouth four times a day after meals and at bedtime
 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H pain 
2. Cephalexin 500 mg PO Q8H 
3. NexIUM *NF* (esomeprazole magnesium) 40 mg Oral BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sinusitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow all instructions given to you on the Sinus and 
Nasal Surgery discharge sheet
-Please perform nasal saline rinses three times daily starting 
today
-No strenuous exercise or heavy lifting for at least two weeks.
-Resume all of your home medications unless advised otherwise.
-If you were prescribed antibiotics or steroids, please taken 
them as directed
-Do not drive or drink alcohol if taking narcotic pain 
medication.
-Please go to your scheduled follow up appointment with your 
surgeon. If you do not already have an appointment scheduled, 
call your surgeon’s office to make an appointment in ___ days.
-Call your surgeon if you have any questions.
-Call your surgeon or go to the nearest emergency room if you 
have fevers > ___ F, if your wound appears red, hot, painful or 
swollen, if your wound opens, or for anything else that is 
troubling you.

 
Followup Instructions:
___